US06787539B2
A suspension of 0.6 g (2 28 mmol) 4-chloro-2-pyridin-4-yl-pyrimidine-5-carboxylic acid ethyl ester, 0.27 g (2 50 mmol) o-cresol and 2.97 g (9.10 mmol) Cs2CO3 in 15 ml acetonitrile was stirred for 17 h at RT. The suspension was poured into 150 ml H2O and extracted three times with 90 ml ethyl acetate. The combined organic phases were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, ethyl acetate/MeOH 100:1) to give 0.74 g (97%) 2-pyridin-4-yl-4-o-tolyloxy-pyrimidine-5-carboxylic acid ethyl ester as a yellow solid, MS (EI): 335.1 (M+).

reactant | 4-chloro-2-pyridin-4-yl-pyrimidine-5-carboxylic acid ethyl ester | 28 mmol, 0.6 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=NC=C1)Cl | C12H10ClN3O2
reactant | o-cresol | 50 mmol, 0.27 g | C1(=CC=CC=C1O)C | C7H8O
reactant | Cs2CO3 | 9.10 mmol, 2.97 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | H2O | 150 ml | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-pyridin-4-yl-4-o-tolyloxy-pyrimidine-5-carboxylic acid ethyl ester | 0.74 g, 97% | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=NC=C1)OC1=C(C=CC=C1)C | C19H17N3O3
